US04912105
In manner analogous to that described in Example 9 (sic), but starting with D series 10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamidine hydrochloride (2 g) in dimethylformamide (20 cc) and with methyl iodide (0.75 g), D series 10-[1-(1-pyrrolidinio)-2-propyl]-2-phenothiazinecarboxamidine iodide hydrochloride (1.9 g) is obtained in the form of a yellow powder.

reactant | 10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamidine hydrochloride | 2 g | Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=N)N
reactant | methyl iodide | 0.75 g | CI | CH3I
solvent | dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
product | 10-[1-(1-pyrrolidinio)-2-propyl]-2-phenothiazinecarboxamidine iodide hydrochloride | 1.9 g | Cl.[I-].[NH+]1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=N)N | InChI=1S/C20H24N4S.ClH.HI/c1-14(13-23-10-4-5-11-23)24-16-6-2-3-7-18(16)25-19-9-8-15(20(21)22)12-17(19)24;;/h2-3,6-9,12,14H,4-5,10-11,13H2,1H3,(H3,21,22);2*1H
